US04118494
(a) N-(2,2-diphenyl-4-pyrrolidin-1-yl-butyl)-carbamic acid ethyl ester
From 2,2-diphenyl-4-pyrrolidin-1-yl-butyl amine in analogy to 3a. The urethane was further reacted in a crude state.

reactant | 2,2-diphenyl-4-pyrrolidin-1-yl-butyl amine | C1(=CC=CC=C1)C(CN)(CCN1CCCC1)C1=CC=CC=C1 | C20H26N2
reactant | urethane | NC(=O)OCC | C3H7NO2
product | N-(2,2-diphenyl-4-pyrrolidin-1-yl-butyl)-carbamic acid ethyl ester | C(C)OC(NCC(CCN1CCCC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H30N2O2
